US07157464B2
Synthesis of 1-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-(4-bromo-3,5-dimethyl-pyrazol-1-yl)-ethanone
Protocol T was followed using 4-Bromo-3,5-dimethyl-pyrazole, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/1) afforded the title compound as a white solid. 1H NMR (400 MHz, CDCl3): 6.95–7.1 (m, 2H), 6.84–6.92 (dd, 2H), 4.90 (s, 2H), 3.62–3.82 (m, 4H), 3.02–3.12 (m, 4H), 2.24–2.34 (d, 6H). 13C NMR (400 MHz, CDCl3): 165, 158.4, 156.6, 150.6, 146.8, 141.4, 119, 115.6, 115.2, 52.6, 51.6, 50.4, 45.2, 42.2, 14.8, 12.6.

reactant | 4-Bromo-3,5-dimethyl-pyrazole | BrC=1C(=NNC1C)C | C5H7BrN2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-(4-bromo-3,5-dimethyl-pyrazol-1-yl)-ethanone | FC1=CC=C(C=C1)N1CCN(CC1)C(CN1N=C(C(=C1C)Br)C)=O | C17H20BrFN4O
